US05707987
1.6M n-Butyl lithium-hexane solution (104 ml, 167 mmol) was added dropwise to a solution of 1-bromo-4-(methoxymethoxymethyl)benzene (38.6 g, 167 mmol) in tetrahydrofuran (350 ml) at -78° C. in a nitrogen stream over 30 minutes. This reaction solution was stirred at -78° C. for 30 minutes and then a solution of (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (27.5 g, 83.5 mmol) in tetrahydrofuran (300 ml) was added dropwise thereto over 1 hour. This reaction solution was stirred at -70° C. for 2 hours and then warmed and saturated aqueous ammonium chloride was added thereto at -20° C. To the reaction mixture, a liquid mixture of ethyl acetate with water was added. The organic layer was washed successively with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, then dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resulting oily residue was subjected to silica gel column chromatography (Wakogel™ C-300, heptane-ethyl acetate=4:1) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[α-hydroxy-4-(methoxymethoxymethyl)benzyl]pyrrolidine (24.1 g, yield: 59.8%) as a colorless oily substance.

reactant | 1-bromo-4-(methoxymethoxymethyl)benzene | 167 mmol, 38.6 g | BrC1=CC=C(C=C1)COCOC | C9H11BrO2
reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 83.5 mmol, 27.5 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[α-hydroxy-4-(methoxymethoxymethyl)benzyl]pyrrolidine | 24.1 g, yield: 59.8% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C=C1)COCOC)O | C25H43NO6Si
